US05118686
2-(2-Propoxyphenyl)-6 -(1H-tetrazol-5-yl)pyrimid-4-(3H)-one
A stirred solution of 4-cyano-6-hydroxy-2-(2-propoxyphenyl)pyrimidine (325 mg), sodium azide (91 mg) and ammonium chloride (75 mg) in dimethylformamide (15 ml) was heated at 125° C. for 5 hours. Most of the dimethylformamide was removed under reduced pressure and water added to the oily residue which solidified. The mixture was cooled and the solid was collected, washed with water and recrystallised from glacial acetic acid to yield the title compound, 174 mg, m.p. 219°-221° C.

reactant | 4-cyano-6-hydroxy-2-(2-propoxyphenyl)pyrimidine | 325 mg | C(#N)C1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C14H13N3O2
reactant | sodium azide | 91 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 75 mg | [Cl-].[NH4+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-(2-Propoxyphenyl)-6 -(1H-tetrazol-5-yl)pyrimid-4-(3H)-one | C(CC)OC1=C(C=CC=C1)C1=NC(=CC(N1)=O)C1=NN=NN1 | C14H14N6O2
